US05250527
m-Chloroperbenzoic acid (32.63 g) in dichloromethane (400 ml) was added dropwise to a solution of 3,4 -dichloro-2 -picoline (25.53 g)in dichloromethane (100 ml) maintaining the temperature at 20°-25°. After standing for 16 hours at room temperature the solution was washed with 1 N NAOH, dried (K2CO3 ) and filtered to give a pale yellow solution. Trifluoroacetic anhydride (30 ml) was added dropwise to this solution maintaining the temperature at 15°-20°. After standing for 2 days at room temperature, methanol (100 ml) was added and the solution evaporated under reduced presure. The residue was treated with aqueous sodium carbonate and extracted into dichloromethane. After drying (K2CO3 ) and removal of solvent, the residue was recrystallised from pet. ether (60/80 ) to give 3,4 -dichloro-2 -hydroxymethylpyridine, 15.76 g, m.p. 66°-8°.

reactant | m-Chloroperbenzoic acid | 32.63 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3,4 -dichloro-2 -picoline | 25.53 g | ClC=1C(=NC=CC1Cl)C | C6H5Cl2N
reactant | Trifluoroacetic anhydride | 30 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | methanol | 100 ml | CO | CH4O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3,4 -dichloro-2 -hydroxymethylpyridine | ClC=1C(=NC=CC1Cl)CO | C6H5Cl2NO
